US05591735
Preparation of 2β,16β-bis(4-hydroxy-1-piperidinyl)-5α-androstane-3α,17β-diol
2α,3α-Epoxy-16β-(4-hydroxy-1-piperidinyl)-5α-androstane-17β-ol is reacted with 4-hydroxypiperidine as described in Example 3 to obtain the title compound in a yield of 85.4%, m.p.: 248°-250° C.

reactant | 2α,3α-Epoxy-16β-(4-hydroxy-1-piperidinyl)-5α-androstane-17β-ol | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCC(CC2)O | C24H39NO3
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 2β,16β-bis(4-hydroxy-1-piperidinyl)-5α-androstane-3α,17β-diol | yield of 85.4% | OC1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCC(CC1)O)O | C29H50N2O4
